US04713485
Into a 500 ml-bomb-apparatus, were introduced 2 g (7.7×10-3 mol) of 2,2-dichloro-1-(4-isobutyl-phenyl)-1-propanone (G.P.C.: 95.4%), 7.2 g (0.18 mol) of sodium hydroxide in pellets, 200 ml of water and 40 ml of xylene. The mixture was brought to 200° C. and stirred for 1 hour at this temperature. The inner pressure in the bomb-apparatus was about 14 bars. After cooling at 20° C., the medium was decanted and the aqueous phases were re-extracted with ethyl ether. After acidification at pH=1 with concentrated hydrochloric acid, the medium was again extracted with ethyl ether. These last ethereal phases were washed with water, dried on sodium sulphate and brought to dryness under vacuum. In this manner, 1.60 g of 2-(4-isobutyl-phenyl)-2-hydroxy-propionic acid were obtained titrating 91.6% in G.P.C. namely a molar yield of 89.8%. An analytical sample was prepared by crystallisation from hexane.

reactant | 2,2-dichloro-1-(4-isobutyl-phenyl)-1-propanone | 7.7×10-3 mol, 2 g | ClC(C(=O)C1=CC=C(C=C1)CC(C)C)(C)Cl | C13H16Cl2O
reactant | sodium hydroxide | 0.18 mol, 7.2 g | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
reactant | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-isobutyl-phenyl)-2-hydroxy-propionic acid | 1.60 g, yield of 89.8% | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)(C)O | C13H18O3
